* Z:\home\sven\synth\lfo\simulation\LFO.asc
V1 VDD 0 PWL(0 0 1m 12)
XU1 N006 0 VDD VEE N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg Vos=1u ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 0 N008 VDD VEE N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 N003 N008 470p
C2 N003 NC_01 100n
C3 N003 NC_02 2.75µ
V2 0 VEE PWL(0 0 1m 12)
R1 N008 N010 100k
R2 N006 N003 47k
R3 N007 N006 100k
R4 N007 N010 25k
R5 N010 N013 25k
R6 N013 0 100
R7 SQR 0 2.2k
R8 N007 SQR 2.2k
XU3 N011 N001 VDD VEE N002 level.2 Avol=1Meg GBW=10Meg Slew=1Meg Vos=1u ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 N001 N003 2k
D1 N001 N002 1N4148
D2 N002 N001 1N4148
R10 N011 0 4.7k
R11 N011 VEE 15k
C4 N002 N001 10n
XU4 N009 N004 VDD VEE N005 level.2 Avol=1Meg GBW=10Meg Slew=1Meg Vos=1u ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R12 N005 N004 100k
R13 N004 0 100k
R14 N004 N002 100k
R15 N009 N002 100k
Q1 N009 N012 0 0 NPN
R16 N012 N007 4.7k
R17 TRI N003 1k
R18 WEIRD N005 1k
.model D D
.lib C:\users\sven\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\sven\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2m
.lib UniversalOpamps2.sub
.backanno
.end
